US07855292B2
F. 2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-phenyl-propionic acid.
This compound was prepared from 2-(2-amino-4,5-dichloro-benzoylamino)-3-phenyl-propionic acid methyl ester and benzo[1,2,5]thiadiazole-4-sulfonyl chloride as in EXAMPLE 2, Parts D and E. HPLC: RT=10.10 min. MS (ESI−): mass calcd. for C22H16Cl2N4O5S2, 551.4; m/z found, 550 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.11 (s, 1H), 8.33 (dd, J=7.1, 0.9, 1H), 8.20 (dd, J=8.8, 0.8, 1H), 7.83 (s, 1H), 7.70 (dd, J=8.8, 7.1, 1H), 7.28 (m, 3H), 7.20 (s, 1H), 7.13 (dd, J=7.4, 1.7, 2H), 6.42 (d, J=7.5, 1H), 5.00 (dd, J=13.3, 6.0, 1H), 3.32 (dd, J=14.1, 5.7, 1H), 3.23 (dd, J=14.1, 6.1, 1H).

reactant | 2-(2-amino-4,5-dichloro-benzoylamino)-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)NC(C1=C(C=C(C(=C1)Cl)Cl)N)=O)=O | C17H16Cl2N2O3
reactant | benzo[1,2,5]thiadiazole-4-sulfonyl chloride | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)Cl | C6H3ClN2O2S2
product | 2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-phenyl-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NC(C(=O)O)CC1=CC=CC=C1)C=C(C(=C2)Cl)Cl | C22H16Cl2N4O5S2
